US08809371B2
4-nitrobenzoate (16.3 g), triphenylphosphine (32 g), and diisopropyl azodicarboxylate (40% toluene solution) (64 ml) were added dropwise to a tetrahydrofuran (50 ml) solution containing tert-butyl((2S)-3-hydroxyhexan-2-yl)carbamate (17 g) for 30 minutes, followed by stirring at room temperature for 14 hours. The solvent was distilled away from the reaction solution under reduced pressure, the obtained residue was purified by silica gel chromatography (n-hexane:ethyl acetate=5.5:1), and a yellow solid of (2S)-2-((tert-butoxycarbonyl)amino)hexane-3-yl 4-nitrobenzoate (17 g) was thus obtained.

reactant | 4-nitrobenzoate | 16.3 g | [N+](=O)([O-])C1=CC=C(C(=O)[O-])C=C1
reactant | triphenylphosphine | 32 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 64 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | tert-butyl((2S)-3-hydroxyhexan-2-yl)carbamate | 17 g | C(C)(C)(C)OC(N[C@@H](C)C(CCC)O)=O | C11H23NO3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (2S)-2-((tert-butoxycarbonyl)amino)hexane-3-yl 4-nitrobenzoate | 17 g | [N+](=O)([O-])C1=CC=C(C(=O)OC([C@H](C)NC(=O)OC(C)(C)C)CCC)C=C1 | C18H26N2O6
